US09079866B2
5-[3-Fluoro-2′-(morpholin-4-ylsulfonyl)biphenyl-4-yl]pyrazin-2-amine
The title compound was prepared in a manner similar to that described in Example 42 using 5-(4-bromo-2-fluorophenyl)pyrazin-2-amine and (2-(morpholinosulfonyl)phenyl)boronic acid. MS (ESI): mass calcd. for C20H19FN4O3S, 414.12; m/z found, 415.2 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.38 (s, 1H), 8.31 (s, 1H), 8.13-8.09 (m, 1H), 7.99 (m, 1H), 7.75-7.69 (m, 1H), 7.65-7.60 (m, 1H), 7.46-7.43 (m, 1H), 7.37-7.31 (m, 2H), 3.54-3.46 (m, 4H), 2.91-2.84 (m, 4H).

reactant | 5-(4-bromo-2-fluorophenyl)pyrazin-2-amine | BrC1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C10H7BrFN3
reactant | (2-(morpholinosulfonyl)phenyl)boronic acid | O1CCN(CC1)S(=O)(=O)C1=C(C=CC=C1)B(O)O | C10H14BNO5S
product | 5-[3-Fluoro-2′-(morpholin-4-ylsulfonyl)biphenyl-4-yl]pyrazin-2-amine | FC=1C=C(C=CC1C=1N=CC(=NC1)N)C1=C(C=CC=C1)S(=O)(=O)N1CCOCC1 | C20H19FN4O3S
